US07579341B2
A7b) 1-(1-benzyl-4-methyl-piperidin-4-yl)-piperazine
15 mL methylmagnesium chloride solution (45 mmol, 3 M in THF) were added at RT to 2.37 g (7.92 mmol) 1-benzyl-4-piperazin-1-yl-piperidine-4-carbonitrile in 100 mL dry THF and the reaction mixture was stirred for 3 h. Saturated NH4Cl solution was added, the mixture was stirred for another 10 min, the aqueous phase was washed with EtOAc, combined with 4 M NaOH solution until an alkaline reaction was obtained, extracted exhaustively with DCM and the combined organic phases were dried over Na2SO4. After elimination of the desiccant and solvent the residue was further reacted without any further purification.

reactant | methylmagnesium chloride | 45 mmol, 3 M, 15 mL | C[Mg]Cl
reactant | 1-benzyl-4-piperazin-1-yl-piperidine-4-carbonitrile | 7.92 mmol | C(C1=CC=CC=C1)N1CCC(CC1)(C#N)N1CCNCC1 | C17H24N4
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-(1-benzyl-4-methyl-piperidin-4-yl)-piperazine | C(C1=CC=CC=C1)N1CCC(CC1)(C)N1CCNCC1 | C17H27N3
